US09120776B2
Using ethyl 4-(4-cyanobenzamido)butanoate and 1-bromo-3-methoxypropane, and by the reaction and purification in the same manner as in the method described in Step 2 of Example 28, 4-(4-cyano-N-(3-methoxypropyl)benzamido)butanoic acid was obtained.

reactant | ethyl 4-(4-cyanobenzamido)butanoate | C(#N)C1=CC=C(C(=O)NCCCC(=O)OCC)C=C1 | C14H16N2O3
reactant | 1-bromo-3-methoxypropane | BrCCCOC | C4H9BrO
product | 4-(4-cyano-N-(3-methoxypropyl)benzamido)butanoic acid | C(#N)C1=CC=C(C(=O)N(CCCOC)CCCC(=O)O)C=C1 | C16H20N2O4
